* C:\Users\Matt Hengeveld\Documents\GitHub\sensornet\sensornet\Baxandall Tone Control.asc
V1 N001 0 24
R§VR2_2 N010 N004 50k
R§VR3_2 N013 N012 50k
R§VR3_1 N012 N007 50k
R§VR2_1 N010 N002 50k
C4 N011 N012 560p Rser=10m
R5 N010 N011 22k
R7 N009 N003 22k
R4 N002 N007 22k
C3 N003 N002 47n Rser=10m
V2 N008 0 SINE(0 1 1k) AC 1
XU1 0 N011 N001 0 N009 LT1028
XU2 0 N005 N001 0 N007 LT1028
R§VR1 N006 N007 50k
R2 N008 N005 50k
C5 N009 N011 68p
R9 N009 0 1k
R10 N009 0 22k
R8 N009 N013 20k
R6 N003 N004 10k
R3 N006 N005 30k
;ac oct 20 1 200k
* BASS
* TREBLE
.tran 0 0.0025s 0 0.01s
* "The MULTIVERSE Preamp"
.lib LTC.lib
.backanno
.end
